US07301022B2
N-(4-(6-(2-((1-Methyl-1H-imidazol-5-yl)methylamino)-4-(trifluoromethyl)-phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide.
N-(4-(6-(2-Amino-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide (prepared as described in WO04014871) was reacted with 1-methyl-1H-imidazole-5-carbaldehyde (Acros) under the conditions of Example 54 to give the title compound. MS (ESI, pos. ion) m/z: 540 (M+1). Mp: 263.0-265.2° C.

reactant | N-(4-(6-(2-Amino-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide | NC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O | C20H14F3N5O2S
reactant | 1-methyl-1H-imidazole-5-carbaldehyde | CN1C=NC=C1C=O | C5H6N2O
product | N-(4-(6-(2-((1-Methyl-1H-imidazol-5-yl)methylamino)-4-(trifluoromethyl)-phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide | CN1C=NC=C1CNC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O | C25H20F3N7O2S
